US08541575B2
Step g: 4-[3-(3-aminophenyl)-1-(4-methoxybenzyl)-1H-pyrazol-4-yl]-N-tert-butylpyridin-2-amine
120 mg (0.2 mmol) of N-tert-butyl-4-[3-{3-[(diphenylmethylidene)amino]phenyl}-1-(4-methoxybenzyl)-1H-pyrazol-4-yl]pyridin-2-amine were dissolved in 20 ml of 1,4-dioxane and 5 ml of HCl 4M in dioxane were added. After 4 hours the solvent was removed in vacuo and the residue dissolved in dichloromethane and washed with aqueous NaHCO3. The organic layer was dried over Na2SO4 and evaporated to give, after trituration with diethylether, 40 mg (46% yield) of the title compound.

reactant | N-tert-butyl-4-[3-{3-[(diphenylmethylidene)amino]phenyl}-1-(4-methoxybenzyl)-1H-pyrazol-4-yl]pyridin-2-amine | 0.2 mmol, 120 mg | C(C)(C)(C)NC1=NC=CC(=C1)C=1C(=NN(C1)CC1=CC=C(C=C1)OC)C1=CC(=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C39H37N5O
reactant | HCl | 4M, 5 ml | Cl | ClH
reactant | diethylether | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4-[3-(3-aminophenyl)-1-(4-methoxybenzyl)-1H-pyrazol-4-yl]-N-tert-butylpyridin-2-amine | 40 mg, 46% yield | NC=1C=C(C=CC1)C1=NN(C=C1C1=CC(=NC=C1)NC(C)(C)C)CC1=CC=C(C=C1)OC | C26H29N5O
